US04542244
1,4-Dimethyl-2-nitro-7-oxabicyclo[2.2.1]heptane
5.5 g of 1,4-dimethyl-5-nitro-7-oxabicyclo[2.2.1]hept-2-ene was placed in a 1/2 liter Parr bomb with 50 ml of ethanol and 10% palladium on powdered charcoal catalyst. The bomb was charged with hydrogen gas under 50 lb pressure. After using 3 lb of hydrogen gas, the reaction mixture was removed from the bomb, filtered to remove the catalyst, and stripped. The residue taken up in ether, was washed with water, dried (MgSO4), filtered and stripped to yield 4.8 g of the desired product as a brownish oil.

reactant | 1,4-dimethyl-5-nitro-7-oxabicyclo[2.2.1]hept-2-ene | 5.5 g | CC12C=CC(C(C1)[N+](=O)[O-])(O2)C | C8H11NO3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 3 lb | [H][H] | H2
catalyst | charcoal | C | CH4
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,4-Dimethyl-2-nitro-7-oxabicyclo[2.2.1]heptane | 4.8 g | CC12C(CC(CC1)(O2)C)[N+](=O)[O-] | C8H13NO3
